US06809110B2
In analogy to the procedure described in example 10 d], (S)-2-ethoxy-3-{2-ethyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid methyl ester was treated with LiOH to obtain (S)-2-ethoxy-3-{2-ethyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid as yellow solid.

reactant | (S)-2-ethoxy-3-{2-ethyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC)OCC)=O | C26H28F3NO4S
reactant | LiOH | [Li+].[OH-]
product | (S)-2-ethoxy-3-{2-ethyl-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-propionic acid | C(C)O[C@H](C(=O)O)CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)CC | C25H26F3NO4S
